US08022062B2
7-Chloro-6-(pyridin-4-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 387, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 4-bromomethylpyridine hydrobromide to give, after hydrochloride formation by the General Procedure 2-2, the title compound as a white solid. MS (APCI+) m/z: 305 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-bromomethylpyridine hydrobromide | Br.BrCC1=CC=NC=C1
reactant | hydrochloride | Cl | ClH
product | 7-Chloro-6-(pyridin-4-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=NC=C1 | InChI=1S/C16H17ClN2S.ClH/c17-15-2-1-13-5-9-19-10-6-14(13)16(15)20-11-12-3-7-18-8-4-12;/h1-4,7-8,19H,5-6,9-11H2;1H
